US09102685B2
(3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((S)-2-((4-chlorobenzyl)amino)-1-hydroxyethyl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl acetate
To a flask containing (3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((S)-2-amino-1-hydroxyethyl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl acetate (200 mg, 379 mmol) and methanol (15 ml) was added triethylamine (15 mg, 0.152 mmol), magnesium sulfate (68 mg, 0.168 mmol) and 4-chlorobenzaldehyde (64 mg, 0.455 mmol). The contents were allowed to stir at ambient temperature for approximately 2 hours. To the resulting mixture was added sodium borohydride (17 mg, 455 mmol) in a single portion and the reaction was allowed to stir at ambient temperature for two and a half days. The reaction was then charged with an additional 20% excess of the p-Cl-benzaldehyde and sodium borohydride and allowed to stir an additional 2 hours. Finally, the reaction was quenched with water, allowed to stir 15 minutes and solids filtered to provide title compound contaminated with impurities. LC/MS: m/z calculated 651.4. found 652 (M+1)+.

reactant | (3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((S)-2-amino-1-hydroxyethyl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl acetate | 379 mmol, 200 mg | C(C)(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)[C@@H](CN)O)C)C)(C)C | C33H53NO4
reactant | triethylamine | 0.152 mmol, 15 mg | C(C)N(CC)CC | C6H15N
reactant | magnesium sulfate | 0.168 mmol, 68 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 4-chlorobenzaldehyde | 0.455 mmol, 64 mg | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium borohydride | 455 mmol, 17 mg | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | (3aR,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((S)-2-((4-chlorobenzyl)amino)-1-hydroxyethyl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl acetate | C(C)(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)[C@@H](CNCC5=CC=C(C=C5)Cl)O)C)C)(C)C | C40H58ClNO4
